US05162327
1,3-Dimethyl-5-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy)-phenylcarbamoyl)-barbituric acid (Example 1)
14.50 g (40.6 mmol) of 4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy)-aniline were added to 9.26 g (40.6 mmol) of 1,3-dimethyl-5-ethoxycarbonylbarbituric acid in 100 ml of toluene, the mixture was stired under reflux for 2.5 hours and concentrated and the residue was recrystallized from methanol.

reactant | 4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy)-aniline | 40.6 mmol, 14.50 g | FC(C(C(F)F)(F)F)(OC(C(OC1=CC=C(N)C=C1)(F)F)F)F | C11H8F9NO2
reactant | 1,3-dimethyl-5-ethoxycarbonylbarbituric acid | 40.6 mmol, 9.26 g | CN1C(=O)N(C(=O)C(C1=O)C(=O)OCC)C | C9H12N2O5
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dimethyl-5-(4-(2-(1,1,2,2,3,3-hexafluoropropoxy)-1,1,2-trifluoroethoxy)-phenylcarbamoyl)-barbituric acid | CN1C(=O)N(C(=O)C(C1=O)C(NC1=CC=C(C=C1)OC(C(F)OC(C(C(F)F)(F)F)(F)F)(F)F)=O)C | C18H14F9N3O6
